.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA=0.09u
.param width_N={10*LAMBDA}
.param width_P={2*width_N}
.global gnd vdd

Vdd vdd gnd 'SUPPLY'
VD D gnd PULSE(0 'SUPPLY' 0 0.1ns 0.1ns 7.5ns 15ns)
Vclk clk gnd PULSE(0 'SUPPLY' 0 0.1ns 0.1ns 5ns 10ns)


M1 y D vdd vdd CMOSP W={width_P*2} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M2 out1 clk y vdd CMOSP W={width_P*2} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA*2} PS={10*LAMBDA+2*width_P*2}
+ AD={5*width_P*LAMBDA*2} PD={10*LAMBDA+2*width_P*2}

M3 out1 D gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} 
+ AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}


M4 out2 clk vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M5 out2 out1 y1 gnd CMOSN W={width_N*2} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA*2} PS={10*LAMBDA+2*width_N*2} 
+ AD={5*width_N*LAMBDA*2} PD={10*LAMBDA+2*width_N*2}

M6 y1 clk gnd gnd CMOSN W={width_N*2} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA*2} PS={10*LAMBDA+2*width_N*2} 
+ AD={5*width_N*LAMBDA*2} PD={10*LAMBDA+2*width_N*2}

M7 out3 out2 vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M8 out3 clk y2 gnd CMOSN W={width_N*2} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA*2} PS={10*LAMBDA+2*width_N*2} 
+ AD={5*width_N*LAMBDA*2} PD={10*LAMBDA+2*width_N*2}

M9 y2 out2 gnd gnd CMOSN W={width_N*2} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA*2} PS={10*LAMBDA+2*width_N*2} 
+ AD={5*width_N*LAMBDA*2} PD={10*LAMBDA+2*width_N*2}

M10 Q out3 vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M11 Q out3 gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} 
+ AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}



.tran 0.1ns 160ns



.control

run
set hcopypscolor = 1 
set color0=white 
set color1=black 
set curplottitle = "2024102053 DFF"
plot v(clk) V(D)+2 v(out1) +4 v(Q)+6

* meas tran t_PCQr1 WHEN V(clk) = 0.9 RISE=3
* meas tran t_PCQr2 WHEN V(Q) = 0.9 RISE=1

* let t_PCQ_RISE =  t_PCQr2 - t_PCQr1

* meas tran t_PCQf1 WHEN V(clk) = 0.9 RISE=2
* meas tran t_PCQf2 WHEN V(Q) = 0.9 FALL=1

* let t_PCQ_FALL =  t_PCQf2 - t_PCQf1



* meas tran tsu1 WHEN V(D)=0.9 RISE=2 
* meas tran tsu2 WHEN V(out1)=0.9 FALL=2

* let tsu = tsu2-tsu1;

* meas tran tho1 WHEN V(clk)=0.9 RISE=2 
* meas tran tho2 WHEN V(out2)=0.9 FALL=2
* let tho = tho2-tho1;
print tho

meas tran clk_50_rise WHEN V(clk)=0.9 RISE=3
meas tran q_50_rise WHEN V(Q)=0.9 RISE=1


meas tran clk_50_fall WHEN V(clk)=0.9 RISE=5
meas tran q_50_fall WHEN V(Q)=0.9 FALL=2

let tpcq_rise = q_50_rise - clk_50_rise
let tpcq_fall = q_50_fall - clk_50_fall
 print tho
print tpcq_rise
print tpcq_fall

.endc
.end    